US07622471B2
1) 1-(6-Chloro-3-pyridazinyl)-5-(2-pyridyl)pyrazole-3-carboxylic acid ethyl ester
3-Chloro-6-hydrazinopyridazine (1.59 g) and the 4-(2-pyridyl)-2,4-dioxobutanoic acid ethyl ester (2.45 g) obtained from Referential Example 31 in ethanol (60 mL) was refluxed under heat for 6 hours. To the reaction mixture, concentrated hydrochloric acid (1 mL) was added, and the mixture was refluxed under heat for 1 hour, and then cooled in air. The reaction solvent was removed under reduced pressure, and the residue was partitioned by use of ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with saturated brine, and then dried over magnesium sulfate anhydrate, followed by filtration. The solvent was removed under reduced pressure, and the residue was purified through silica gel chromatography (ethyl acetate-hexane), to thereby give 1-(6-chloro-3-pyridazinyl)-5-(2-pyridyl)pyrazole-3-carboxylic acid ethyl ester as a solid (1.50 g, 41%).

reactant | 3-Chloro-6-hydrazinopyridazine | 1.59 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | 4-(2-pyridyl)-2,4-dioxobutanoic acid ethyl ester | 2.45 g | C(C)OC(C(CC(=O)C1=NC=CC=C1)=O)=O | C11H11NO4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 1-(6-Chloro-3-pyridazinyl)-5-(2-pyridyl)pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C1=NC=CC=C1)C=1N=NC(=CC1)Cl | C15H12ClN5O2
